US08278317B2
N,N-diisopropyl-2-pyridin-3-ylacetamide
To a mixture of pyridin-3-ylacetic acid (1.0 g, 7.292 mmol), EDC (2.796 g, 14.584 mmol) and HOAt (992 mg, 7.292 mmol) in 10 mL DMF were added diisopropyl amine (1.476 g, 14.584 mmol) and Hunig's base (1.885 g, 14.584 mmol). The reaction mixture was stirred at room temperature overnight and then partitioned between ether and half-saturated aq NaHCO3. The aqueous layer was extracted with CH2Cl2 (3×). The combined organic layers were dried over anhydrous Na2SO4 and concentrated. The resulting residue was purified by flash chromatography using a linear gradient of 0% to 6% MeOH—NH3 (90:10 v/v) in CH2Cl2 to give a white solid.

reactant | pyridin-3-ylacetic acid | 7.292 mmol, 1.0 g | N1=CC(=CC=C1)CC(=O)O | C7H7NO2
reactant | EDC | 14.584 mmol, 2.796 g
reactant | HOAt | 7.292 mmol, 992 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | diisopropyl amine | 14.584 mmol, 1.476 g | C(C)(C)NC(C)C | C6H15N
reactant | Hunig's base | 14.584 mmol, 1.885 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N,N-diisopropyl-2-pyridin-3-ylacetamide | C(C)(C)N(C(CC=1C=NC=CC1)=O)C(C)C | C13H20N2O
